US05534529
N-(2-Ethyl-6-{1-[2-(9H-xanthen-9-yl)acetoxy]propyl}-phenyl)-2-(9H-xanthen-9-yl)acetamide
Following a procedure similar to that described in Example 21, but using 2.2 equivalents of 2-(9H-xanthen-yl)acetyl chloride and one equivalent of 2-ethyl-6-(1-hydroxypropyl)aniline, the title compound was obtained as a foam-like material.

reactant | 2-(9H-xanthen-yl)acetyl chloride | 2.2 equivalents | C1=CC=CC=2OC3=CC=CC=C3C(C12)CC(=O)Cl | C15H11ClO2
reactant | 2-ethyl-6-(1-hydroxypropyl)aniline | one equivalent | C(C)C1=C(N)C(=CC=C1)C(CC)O | C11H17NO
product | N-(2-Ethyl-6-{1-[2-(9H-xanthen-9-yl)acetoxy]propyl}-phenyl)-2-(9H-xanthen-9-yl)acetamide | C(C)C1=C(C(=CC=C1)C(CC)OC(CC1C2=CC=CC=C2OC=2C=CC=CC12)=O)NC(CC1C2=CC=CC=C2OC=2C=CC=CC12)=O | C41H37NO5
